US06608203B2
E-3-[4-(6-Hydroxy-2-phenyl-1,2,3,4-tetrahydroisoquinolin-1-yl)-phenyl]-acrylamide
To a stirred solution of 1-(4-iodo-phenyl)-2-phenyl-1,2,3,4-tetrahydroisoquinolin-6-ol (0.100 g, 0.234 mmol), triethylamine (0.163 ml, 1.17 mmol), and acrylamide (0.082 g, 0.351 mmol) in DMF (2 ml), under an atmosphere of N2, was added Pd(PPh3)4 (0.014 g, 0.012 mmol). The solution was heated to 100° C. overnight, then cooled to RT and diluted with water (20 ml). The aqueous mixture was extracted with EtOAc (3×10 ml). The combined organics were dried over MgSO4, filtered, and concentrated in vacuo. The residue was subjected to flash chromatography (SiO2, 5% MeOH/CH2Cl2) to give the desired product (0.030 g, 0.089 mmol, 35% yield).

reactant | 1-(4-iodo-phenyl)-2-phenyl-1,2,3,4-tetrahydroisoquinolin-6-ol | 0.234 mmol, 0.100 g | IC1=CC=C(C=C1)C1N(CCC2=CC(=CC=C12)O)C1=CC=CC=C1 | C21H18INO
reactant | triethylamine | 1.17 mmol, 0.163 ml | C(C)N(CC)CC | C6H15N
reactant | acrylamide | 0.351 mmol, 0.082 g | C(C=C)(=O)N | C3H5NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | water | 20 ml | O | H2O
catalyst | Pd(PPh3)4 | 0.012 mmol, 0.014 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | E-3-[4-(6-Hydroxy-2-phenyl-1,2,3,4-tetrahydroisoquinolin-1-yl)-phenyl]-acrylamide | 0.089 mmol, 0.030 g, 35% yield | OC=1C=C2CCN(C(C2=CC1)C1=CC=C(C=C1)/C=C/C(=O)N)C1=CC=CC=C1 | C24H22N2O2
